US04105849
Following Scheme I, 18.1 parts of 4-diphenylmethylpiperidine (U.S. Pat. No. 3,806,526) 13.6 parts of 2-chloroethylpiperidine hydrochloride and 16 parts of sodium carbonate are placed in 250 parts of aqueous 95% ethanol and heated at reflux for 5 hours with stirring. The ethanol is removed to provide an oil which is 1-(2-piperidinoethyl)-4-(diphenylmethyl)piperidine. This oil is dissolved in anhydrous ethanol and 2 equivalents of hydrochloric acid gas are added to provide 1-(2-piperidinoethyl)-4-(diphenylmethyl)piperidine dihydrochloride, melting at 330° C. The anhydrous ethanol solution of 1-(2-piperidinoethyl)-4-(diphenylmethyl)piperidine is reacted with 1.5 equivalents of oxalic acid to provide the oxalic acid salt. In a similar manner other previously mentioned pharmaceutically acceptable salts are formed.

reactant | 4-diphenylmethylpiperidine | C1(=CC=CC=C1)C(C1CCNCC1)C1=CC=CC=C1 | C18H21N
reactant | 2-chloroethylpiperidine hydrochloride | Cl.ClCCN1CCCCC1
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-(2-piperidinoethyl)-4-(diphenylmethyl)piperidine | N1(CCCCC1)CCN1CCC(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C25H34N2
reactant | hydrochloric acid | 2 equivalents | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 1-(2-piperidinoethyl)-4-(diphenylmethyl)piperidine dihydrochloride | Cl.Cl.N1(CCCCC1)CCN1CCC(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C25H34N2.2ClH/c1-4-10-22(11-5-1)25(23-12-6-2-7-13-23)24-14-18-27(19-15-24)21-20-26-16-8-3-9-17-26;;/h1-2,4-7,10-13,24-25H,3,8-9,14-21H2;2*1H
